US09302996B2
To a tetrahydrofuran (70 mL) solution containing dibromodifluoromethane (5.09 g) was added dropwise hexamethyl phosphoric triamide (8.81 mL) at −78° C. The temperature of the mixture was returned to room temperature, and the mixture was stirred for 30 minutes. The mixture was cooled to −78° C., and a tetrahydrofuran (20 mL) solution of 2-(6-{4-[(4-methoxybenzyl)oxy]phenyl}pyridin-3-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-4-carbaldehyde (1.25 g) was added dropwise thereto. The temperature of the mixture was returned to room temperature, and the mixture was stirred for 3 hours. To the mixture were added ethyl acetate, water and a saturated aqueous sodium bicarbonate solution, and the liquids were separated. The organic layer was separated, washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=85:15 to 55:45) to obtain 5-[4-(2,2-difluoroethenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]-2-{4-[(4-methoxybenzyl)oxy]phenyl}pyridine (0.84 g).

reactant | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
reactant | dibromodifluoromethane | 5.09 g | BrC(F)(F)Br | CBr2F2
reactant | hexamethyl phosphoric triamide | 8.81 mL | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | 2-(6-{4-[(4-methoxybenzyl)oxy]phenyl}pyridin-3-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-4-carbaldehyde | 1.25 g | COC1=CC=C(COC2=CC=C(C=C2)C2=CC=C(C=N2)C=2N(C=C(N2)C=O)COCC[Si](C)(C)C)C=C1 | C29H33N3O4Si
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[4-(2,2-difluoroethenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]-2-{4-[(4-methoxybenzyl)oxy]phenyl}pyridine | 0.84 g | FC(=CC=1N=C(N(C1)COCC[Si](C)(C)C)C=1C=CC(=NC1)C1=CC=C(C=C1)OCC1=CC=C(C=C1)OC)F | C30H33F2N3O3Si
